US08648066B2
To a solution of phenylmethyl 2-methyl-4-oxo-3,4-dihydropyridine-1(2H)-carboxylate (J. Bioorg. Med. Chem. 2007, 1106-1116) (2.4 g, 9.78 mmol) in THF (35 mL) was added dropwise a 1M solution of lithium bis(trimethylsilyl)amide in THF (11 mL) at −78° C. The solution was warmed up to 0° C., stirred at this temperature for 1 h, then cooled again to −78° C. 3-Fluorobenzaldehyde (1.3 mL, 12.7 mmol) was added in one portion. The reaction was stirred for 4 h while allowing it to slowly warm up to 0° C. Then, saturated ammonium chloride (20 mL) was added, and the layers were separated. The aqueous layer was extracted with ethyl acetate (2×20 mL) and the combined organic layers were washed with saturated sodium chloride (50 mL), dried over sodium sulfate, filtered and concentrated. Column chromatography on silica (gradient 20 to 100% ethyl acetate in hexanes) afforded phenylmethyl 3-[(3-fluorophenyl)(hydroxy)methyl]-2-methyl-4-oxo-3,4-dihydropyridine-1(2H)-carboxylate (2.4 g, 66% yield) as mixture of diastereomers. MS (EI) for C21H20FNO4: 370.1 (MH+).

reactant | phenylmethyl 2-methyl-4-oxo-3,4-dihydropyridine-1(2H)-carboxylate | 9.78 mmol, 2.4 g | CC1N(C=CC(C1)=O)C(=O)OCC1=CC=CC=C1 | C14H15NO3
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-Fluorobenzaldehyde | 12.7 mmol, 1.3 mL | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | phenylmethyl 3-[(3-fluorophenyl)(hydroxy)methyl]-2-methyl-4-oxo-3,4-dihydropyridine-1(2H)-carboxylate | 2.4 g, 66% yield | FC=1C=C(C=CC1)C(C1C(N(C=CC1=O)C(=O)OCC1=CC=CC=C1)C)O | C21H20FNO4
